US06201087B1
6.8 g (33 mmol) of N,N′-dicyclohexylcarbodiimide were added at 0° C. while stirring to a solution of 7.8 g (25.4 mmol) of 4-[6-(2-methyl-acryloyloxy)-hexyloxy]-benzoic acid, 2.9 g (23.4 mmol) of 4-methoxy-phenol and 0.5 g of 4-(dimethyl-amino)-pyridine in 200 ml of dichloromethane. The reaction mixture was stirred at room temperature for a further 16 hours, then filtered and the filtrate was extracted twice with saturated K2CO3 solution. The combined organic phases were washed twice with saturated sodium chloride solution, dried over magnesium sulphate, filtered and subsequently concentrated. Chromatographic purification of the residue on silica gel with methylene chloride: acetone=19:1 and two-fold recrystallization of the fractions which were pure according to thin-layer chromatography from methyl alcohol gave 7.76 g of 4-methoxy-phenyl 4-[6-(2-methyl-acryloyloxy)-hexyloxy]-benzoate as a white solid. The substance is monotropic nematic, m.p. (C-l) 550C, (cl.p. (N-l) 35.7° C.). Mass spectrometric analysis yields the mol peak at m/e=412.

reactant | N,N′-dicyclohexylcarbodiimide | 33 mmol, 6.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-[6-(2-methyl-acryloyloxy)-hexyloxy]-benzoic acid | 25.4 mmol, 7.8 g | CC(C(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1)=C | C17H22O5
reactant | 4-methoxy-phenol | 23.4 mmol, 2.9 g | COC1=CC=C(C=C1)O | C7H8O2
catalyst | 4-(dimethyl-amino)-pyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 4-methoxy-phenyl 4-[6-(2-methyl-acryloyloxy)-hexyloxy]-benzoate | 7.76 g | CC(C(=O)OCCCCCCOC1=CC=C(C(=O)OC2=CC=C(C=C2)OC)C=C1)=C | C24H28O6
